US09447078B2
3-Amino-1-(4-bromothiophen-2-yl)propan-1-ol and ethyl trifluoroacetate (2.0 mL) were stirred in CH2Cl2 (10 mL) at room temperature overnight. Concentration under reduced pressure gave N-(3-(4-bromothiophen-2-yl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide which was used in the next step without additional purification. Yield (0.77 g, 28% in three steps); 1H NMR (400 MHz, DMSO-d6) δ 9.36 (br.s, 1H), 7.51 (d, J=1.5 Hz, 1H), 6.90-7.00 (m, 1H), 5.86 (d, J=5.0 Hz, 1H), 4.75-4.83 (m, 1H), 3.20-3.30 (m, 2H), 1.80-1.94 (m, 2H).

reactant | 3-Amino-1-(4-bromothiophen-2-yl)propan-1-ol | NCCC(O)C=1SC=C(C1)Br | C7H10BrNOS
reactant | ethyl trifluoroacetate | 2.0 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-bromothiophen-2-yl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | BrC=1C=C(SC1)C(CCNC(C(F)(F)F)=O)O | C9H9BrF3NO2S
